US07338933B2
MAPTP-G-CSF solution (540 ug) was concentrated and exchanged with 1M MES buffer (pH 6.0) and adjusted to 50 ul. Then UDP-GalNAc (100 ug, 0.15 umol, 5 eq), GalNAcT2 (5.0 U/ml, 5 ul) and 100 mM MnCl2 (5 ul) was added. The resulting mixture was rocked at RT overnight. Then CMP-SA-PEG (20K) (2.16 mg, 0.108 umol) and St6GalNAcI (1.0 U/ml, 50 ul) were added. The solution was rocked at rt for 60 h. Additional CMP-SA-PEG(20K) (2.16 mg, 0.108 umol) and St6GalNAcI (1.0 U/ml, 50 ul) were added, followed by slow rotation at rt for 24 h. Reaction mixture was exchanged with buffer A (25 mM NaOAc, 0.005% polysorbate 80, pH 4.5), then purified on an Amersham SP-FF (5 mL) column with an isocratic elution of 100% A for 10 minutes followed by a linear gradient of 100% A to 20% B over 20 minutes at a flow rate of 3 mL min−1, where B=25 mM NaOAc, 2 M NaCl 0.005% polysorbate 80, pH 4.5. The peak at retention time 17 mins was pooled and concentrated to 0.5 ml, which was further purified on an Amersham HiLoad Superdex 200 (16×600 mm, 34 μm) with phosphate buffered saline, pH 5.0, 0.005% Tween80, at a flow rate of 0.4 mL min−1. Product fractions at retention time 160 mins was pooled, concentrated to provide 30 ug of MAPT-G-CSF(GalNAc-SA-PEG(20K))2(BCA). The yield was not optimized.

reactant | UDP-GalNAc | 0.15 umol, 100 ug, 5 eq | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
reactant | NaOAc | 25 mM | CC(=O)[O-].[Na+]
product | GalNAc | OC1[C@@H]([C@@H](O)[C@@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
